US08685980B2
7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (30 mg, 0.230 mmol) in 5 mL of dichloromethane. Added 0.5 mL of acetic anhydride. After 10 min, reaction is complete and trituration with acetonitrile gave 2-[5-(4-acetyl-piperazin-1-yl)-pyridin-2-ylamino]-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (30 mg, 91%). MS (ESI) m/z 477.3 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.230 mmol, 30 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetonitrile | C(C)#N | C2H3N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[5-(4-acetyl-piperazin-1-yl)-pyridin-2-ylamino]-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 30 mg, 91% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C(C)=O)N1C1CCCC1)C | C25H32N8O2
